US05489614
4-(3,4-Dihydroxy-5-nitrophenyl)methylene-3,5-heptanedione
To a solution of 3,4-dihydroxy-5-nitrobenzaldehyde (7.6 g) and 3,5-heptanedione (8.0 g) in 50 ml of 2-propanol was added thionyl cloride (3.5 ml) with stirring at 20° C. Ether (60 ml) was added and the solution was filtered and allowed to stand overnight. The resulting crystal were filtered. Yield 1.2 g, mp 133°-135° C.

reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | 7.6 g | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
reactant | 3,5-heptanedione | 8.0 g | CCC(CC(CC)=O)=O | C7H12O2
reactant | thionyl cloride | 3.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | Ether | 60 ml | CCOCC | C4H10O
solvent | 2-propanol | 50 ml | CC(C)O | C3H8O
product | 4-(3,4-Dihydroxy-5-nitrophenyl)methylene-3,5-heptanedione | OC=1C=C(C=C(C1O)[N+](=O)[O-])C=C(C(CC)=O)C(CC)=O | C14H15NO6
